US07582769B2
2-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid
The title compound was prepared in a similar manner to 2-[2-(3,3-dicyclohexyl-ureido)-thiazol-5-ylsulfanyl]-2-methyl-propionic acid using ethyl 2-bromoproprionate as the alkylating agent.

reactant | 2-[2-(3,3-dicyclohexyl-ureido)-thiazol-5-ylsulfanyl]-2-methyl-propionic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SC(C(=O)O)(C)C)=O)C1CCCCC1 | C20H31N3O3S2
reactant | ethyl 2-bromoproprionate | BrC(C(=O)OCC)C | C5H9BrO2
product | 2-[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylsulfanyl]-propionic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SC(C(=O)O)C)=O)C1CCCCC1 | C19H29N3O3S2
